US06534546B1
Synthesis of N-(3-nitrophenylmethyl acetamide
Acetic anhydride (0.08 ml) was added dropwise to a solution of 3-nitrobenzylamine hydrochloride (139 mg) and triethylamine (0.22 ml) in methylene chloride (10 ml) and stirred at room temperature for 2 h. To the reaction mixture, 2 N HCl was added and extraction was performed with methylene chloride; then, the organic layer was washed successively with water and a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate) to give 102 mg of the titled compound (yield, 71%).

reactant | Acetic anhydride | 0.08 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-nitrobenzylamine hydrochloride | 139 mg | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 2 N | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-nitrophenylmethyl acetamide | 102 mg, 71% | [N+](=O)([O-])C=1C=C(C=CC1)CCC(=O)N | C9H10N2O3
